US04678739
290 g (2.20 mol) of 3-methylindazole and an acetonitrile solution (400 ml) of pyridine (4.34 mol) were stirred as the mixture was cooled on a water bath, and 310 ml (3.30 mol) of acetic anhydride was added dropwise thereto. Upon addition, the reaction temperature rose from 15° C. to 43° C. After the conclusion of the dropwise addition, the reaction solution was warmed to from 55° to 60° C., and stirred at this temperature for one hour. After cooling to 20° C., the reaction solution was poured into 1.5 kg of ice-cold water containing 500 ml of aqueous hydrochloric acid. The crystals deposited were filtered off, and washed with water. Thus, 328 g (1.89 mol) of 1-acetyl-3-methylindazole was obtained.

reactant | 3-methylindazole | 2.20 mol, 290 g | CC1=NNC2=CC=CC=C12 | C8H8N2
reactant | pyridine | 4.34 mol | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 3.30 mol, 310 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-acetyl-3-methylindazole | 1.89 mol, 328 g | C(C)(=O)N1N=C(C2=CC=CC=C12)C | C10H10N2O
